US06955890B2
As noted above, in bacteria and fungi, GTP cyclohydrolase II (EC 3.5.4.25) catalyzes the reaction of GTP with a purine to produce 2,5-Diamino-6-hydroxy-4-(5′phosphoribosylamino)-pyrimidine; diaminohydroxyphosphoribosylaminopyrimidine deaminase (EC 3.5.4.26) catalyzes the reaction of 2,5-Diamino-6-hydroxy-4-(5′phosphoribosylamino)-pyrimidine to produce 5-amino-6-(5-phosphoribosylamino)uracil; 5-amino-6-(5-phosphoribosylamino)uracil reductase (EC 1.1.1.193) catalyzes the reaction of 5-amino-6-(5-phosphoribosylamino)uracil to produce 5-Amino-6-(5′phosphoribitylamino)uracil; lumazine synthase catalyzes the reaction of 5-Amino-6-(5′phosphoribitylamino)uracil to produce 6,7-Dimethyl-8-ribityl lumazine; and riboflavin synthase (EC 2.5.1.9) catalyzes the reaction of 6,7-Dimethyl-8-ribityl lumazine to produce riboflavin

reactant | diaminohydroxyphosphoribosylaminopyrimidine | NC1=C(C(=NC(=N1)NC1[C@H](O)[C@H](O)[C@H](O1)CO)P(=O)(OO)O)N | C9H16N5O8P
reactant | 2,5-Diamino-6-hydroxy-4-(5′phosphoribosylamino)-pyrimidine | NC1=NC(=C(C(=N1)NC1[C@H](O)[C@H](O)[C@H](O1)COP(=O)(O)O)N)O | C9H16N5O8P
product | 5-amino-6-(5-phosphoribosylamino)uracil | NC=1C(NC(NC1NC1[C@H](O)[C@H](O)[C@H](O1)COP(=O)(O)O)=O)=O | C9H15N4O9P
